US04792542
Synthesis of 1,2-Bis(4-methoxyphenylthio)ethane
30 g of 4-methoxythiophenol, 20.2 g of ethylene bromide, 40 g of potassium carbonate, and 40 ml of dimethylformamide were placed in a 300 ml flask, and stirred for 3 hours as the interior of the flask was maintained at a temperature of from 50° C. to 60° C. The reaction mixture was poured into ice-cold water to deposit crystals. The crystals were recrystallized from methanol/ethyl acetate 1/1 (volume ratio) mixture. Melting point: 108°-110° C.

reactant | 4-methoxythiophenol | 30 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | ethylene bromide | 20.2 g | C(CBr)Br | C2H4Br2
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1,2-Bis(4-methoxyphenylthio)ethane | COC1=CC=C(C=C1)SCCSC1=CC=C(C=C1)OC | C16H18O2S2
